US05051422
4-(3-Aminophenyl)-2-piperazinecarboxylic acid
In a manner similar to Preparation 17, react 4-(3-aminophenyl)-2-piperazinecarboxamide with potassium hydroxide to obtain the title compound.

reactant | 4-(3-aminophenyl)-2-piperazinecarboxamide | NC=1C=C(C=CC1)N1CC(NCC1)C(=O)N | C11H16N4O
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(3-Aminophenyl)-2-piperazinecarboxylic acid | NC=1C=C(C=CC1)N1CC(NCC1)C(=O)O | C11H15N3O2
